US06727264B1
According to the procedure used for the synthesis of N-(3-{1-[3-(1,2-diphenyl-1H-indol-3- yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide, N-{3-[1-(3,3-dimethoxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide (15.2 mg, 0.0436 mmol) and 1,1-diphenylhydrazine hydrochloride (11.6 mg, 0.0524 mmol) provided 2-methyl-N-(3-{1-[(1-phenyl-1H-indol-3-yl)methyl]-4-piperidinyl}phenyl)propanamide (11 mg, 56%). 1H NMR (400 MHz, CDCl3) δ 7.79 (d, 1H, J=7.8 Hz), 7.57 (d, 1H, J=7.7 Hz), 7.54-7.47 (m, 4H), 7.43-7.32 (m, 4H), 7.25-7.16 (m, 4H), 6.95 (d, 1H, J=7.8 Hz), 3.87 (s, 2H), 2.53-2.47 (m, 2H), 2.21 (dt, 2H, J=3.0, 10.5 Hz), 2.12-1.77 (m, 6H), 1.24 (d, 6H, J=6.9 Hz); ESMS m/e: 451.3 (M+H)+.

reactant | N-(3-{1-[3-(1,2-diphenyl-1H-indol-3- yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C38H41N3O
reactant | N-{3-[1-(3,3-dimethoxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | 0.0436 mmol, 15.2 mg | COC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC | C20H32N2O3
reactant | 1,1-diphenylhydrazine hydrochloride | 0.0524 mmol, 11.6 mg | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
product | 2-methyl-N-(3-{1-[(1-phenyl-1H-indol-3-yl)methyl]-4-piperidinyl}phenyl)propanamide | 11 mg, 56% | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CN(C2=CC=CC=C12)C1=CC=CC=C1)C | C30H33N3O
